US06506901B2
Step A: 2,6-Difluoro-N-methyl-benzamide
The title compound was prepared from 2,6-difluorobenzoic acid (10 g, 63.2 mmol), carbonyldiimidazole (10.26 g, 63.5 mmol), methylamine hydrochloride (4.27 g, 63.25 mmol) and diisopropylethyl amine according to the procedure used for example 84 (Step A) to give near quantitative yield of the title compound.

reactant | 2,6-difluorobenzoic acid | 63.2 mmol, 10 g | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
reactant | carbonyldiimidazole | 63.5 mmol, 10.26 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine hydrochloride | 63.25 mmol, 4.27 g | Cl.CN
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
product | 2,6-Difluoro-N-methyl-benzamide | quantitative yield | FC1=C(C(=O)NC)C(=CC=C1)F | C8H7F2NO
